US07361796B2
(1) Synthesis of 9-(3-(2,2-diphenylvinyl)phenyl)-10-(4-(3-(2,2-diphenyl-vinyl)phenyl)phenyl)anthracene (Compound 42)
Under an atmosphere of argon, 9-bromo-10-(4-bromophenyl)-anthracene (3.0 g, 7.3 mmole), 4-(2,2-diphenylvinyl)phenylboronic acid (6.6 g, 22 mmole, 3 eq) and tetrakis(triphenylphosphine)palladium(0) (0.34 g, 0.29 mmole, 2% Pd) were suspended into toluene (60 ml). To the obtained suspension, a 2 M aqueous solution of sodium carbonate (7.0 g, 66 mmole, 3 eq/35 ml) was added and the resultant mixture was heated under refluxing for 10 hours. The reaction mixture was filtered and washed with toluene, water and methanol and a gray solid (1.4 g, the first crop, 25%) was obtained. From the filtrate, the organic layer was separated, washed with a saturated aqueous solution of sodium chloride and dried with magnesium sulfate. The solvent was removed by distillation and a deep brown oil was obtained. When the obtained oil was dissolved in dichloromethane, crystals were formed soon. The formed crystals were separated by filtration and washed with a mixed solvent composed of hexane and dichloromethane and a white solid (3.3 g, the second crop, 59%) was obtained. The obtained crude crystals (3.5 g) were suspended in boiling toluene (40 ml), cooled while being left standing, filtered and washed with toluene and a light yellow solid (2.4 g) was obtained.

reactant | 9-bromo-10-(4-bromophenyl)-anthracene | 7.3 mmole, 3.0 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)Br | C20H12Br2
reactant | 4-(2,2-diphenylvinyl)phenylboronic acid | 22 mmole, 6.6 g, 3 eq | C1(=CC=CC=C1)C(=CC1=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C20H17BO2
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 66 mmole, 35 ml, 7.0 g, 3 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.29 mmole, 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-(3-(2,2-diphenylvinyl)phenyl)-10-(4-(3-(2,2-diphenyl-vinyl)phenyl)phenyl)anthracene | 2.4 g | C1(=CC=CC=C1)C(=CC=1C=C(C=CC1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C1=CC(=CC=C1)C=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C60H42
